US09029528B2
(1) Synthesis of 3,4,5-tris(octadecyloxy)benzyl chloride
Under an argon atmosphere, 3,4,5-tris(octadecyloxy)benzyl alcohol (10.0 g, 11.0 mmol) was dissolved in dichloromethane (100 mL), N,N-dimethylformamide (84.0 μL, 1.10 mmol) and thionyl chloride (1.20 ml, 16.4 mmol) were added, and the mixture was stirred at 30° C. for 90 min. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, acetonitrile was added, and the precipitated solid was filtered. The obtained solid was dried under reduced pressure to give the title compound (10.0 g, 98.2%) as a white solid.

reactant | 3,4,5-tris(octadecyloxy)benzyl alcohol | 11.0 mmol, 10.0 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CO)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H116O4
reactant | N,N-dimethylformamide | 1.10 mmol, 84.0 μL | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 16.4 mmol, 1.20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 3,4,5-tris(octadecyloxy)benzyl chloride | 10.0 g, 98.2% | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CCl)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H115ClO3
